US03987095
1-((3,4-Dichlorophenyl)sulfinyl)methanesulfonamide
To a solution of 0.50 g. (0.0018 mol.) of 1-((3,4-dichlorophenyl)thio)methanesulfonamide in 25 ml. of glacial acetic acid is added 0.10 g. of 30% hydrogen peroxide, and the reaction mixture is heated at 65° to 70° C. The progress of the reaction is followed by nuclear magnetic resonance spectroscopy, and over a period of 7 hours an additional 0.37 g. of 30% hydrogen peroxide is added in small incremental amounts. After the 7 hour reaction period, the acetic acid solution is allowed to cool, and the title compound separates as fluffy, white crystals. The crystals are filtered, washed with ether, and dried to give 0.37 g. of 1-((3,4-dichlorophenyl)sulfinyl)methanesulfonamide, m.p. 205°-207° C.

reactant | 1-((3,4-dichlorophenyl)thio)methanesulfonamide | 0.0018 mol | ClC=1C=C(C=CC1Cl)SCS(=O)(=O)N | C7H7Cl2NO2S2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-((3,4-Dichlorophenyl)sulfinyl)methanesulfonamide | ClC=1C=C(C=CC1Cl)S(=O)CS(=O)(=O)N | C7H7Cl2NO3S2
